US08802661B2
Preparation of (1S,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid. Intermediate 34
A mixture of (1S,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-benzyl 1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (220 mg, 0.331 mmol), tert-butyldimethylsilane (77 mg, 0.662 mmol), TEA (0.074 mL, 0.529 mmol) and palladium (II) acetate (18.57 mg, 0.083 mmol) in DCM (2 mL) was heated up at 60° C. for 3 h, TLC indicated the starting material was consumed. The reaction mixture was filtered a pad of celite. The filtrates were concentrated under reduced pressure to provide the intermediate. To this intermediate in dioxane (2 mL) was added TBAF (346 mg, 0.993 mmol), the reaction mixture was stirred for 2 h at room temperature. LCMS indicated the formation of desired product. The reaction mixture was quenched with distilled water (5 mL), extracted with DCM (3×8 mL). All the extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the desired product as a pale yellow solid (150 mg, 79%). LCMS: m/e 575.35 (M+H)+, 2.84 min (method 1).

reactant | (1S,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-benzyl 1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 0.331 mmol, 220 mg | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CC=C(C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)C2=CC=C(C=C2)C(=O)OC)C)C(=O)OCC2=CC=CC=C2 | C45H60O4
reactant | tert-butyldimethylsilane | 0.662 mmol, 77 mg | C(C)(C)(C)[SiH](C)C | C6H16Si
reactant | TBAF | 0.993 mmol, 346 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 0.083 mmol, 18.57 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1S,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-1-isopropyl-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CC=C(C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)C2=CC=C(C=C2)C(=O)OC)C)C(=O)O | C38H54O4
